US03957819
2-(3-Chloropropylamino)-3-phenyl-3H-indol-3-ol
Thionylchloride (1.53 ml.) was added dropwise to a stirred cooled suspension of 2-(3-hydroxypropylamino)-3-phenyl-3H-indol-3-ol (3 g.) in chloroform (25 ml.). On completion of the addition the reaction was allowed to warm to room temperature and then heated under reflux for 45 minutes. The solvent and excess thionyl chloride were removed under reduced pressure and the resulting product crystallised from isopropanol-ether to give the title compound as its hydrochloride salt (2.72 g.). After two recrystallisations from isopropanol-ether the hydrochloride had a m.p. 210°-212°C. (Found C, 60.8; H. 5.6; N, 8.3. C17H17ClN20HCl requires C, 60.5; H, 5.4; N 8.3%).

reactant | Thionylchloride | 1.53 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(3-hydroxypropylamino)-3-phenyl-3H-indol-3-ol | 3 g | OCCCNC1=NC2=CC=CC=C2C1(O)C1=CC=CC=C1 | C17H18N2O2
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(3-Chloropropylamino)-3-phenyl-3H-indol-3-ol | ClCCCNC1=NC2=CC=CC=C2C1(O)C1=CC=CC=C1 | C17H17ClN2O
